US07482448B2
Acetic acid (S)-2-tert-butoxycarbonylamino-1-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazol-2-yl]-butyl ester
acetic acid (S)-2-tert-butoxycarbonylamino-1-[N′-(4-trifluoromethoxy-benzoyl)-hydrazinocarbonyl]-butyl ester (0.21 mmol, 0.1 g) is dissolved in THF (5 mL) and the solution filled into a Smith Microwave synthesizer reaction vessel. 2-tert-Butylimino-2-diethylamino-1,3-dimethylperhydro-1,2,3-diazaphosphorine on polystyrene (1.05 mmol, 0.456 g, 2.3 mmol/g loading) and the p-Toluenesulfonic chloride (0.25 mmol, 0.048 g) are added and the reaction mixture heated at 150° C. for 10 min (fixed hold time) in the microwave synthesizer.

reactant | acetic acid (S)-2-tert-butoxycarbonylamino-1-[N′-(4-trifluoromethoxy-benzoyl)-hydrazinocarbonyl]-butyl ester | 0.21 mmol, 0.1 g | C(C)(C)(C)OC(=O)NC([C@@H](C(=O)NNC(C1=CC=C(C=C1)OC(F)(F)F)=O)OC(C)=O)CC | C20H26F3N3O7
reactant | p-Toluenesulfonic chloride | 0.25 mmol, 0.048 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Acetic acid (S)-2-tert-butoxycarbonylamino-1-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazol-2-yl]-butyl ester | C(C)(C)(C)OC(=O)NC([C@@H](C=1OC(=NN1)C1=CC=C(C=C1)OC(F)(F)F)OC(C)=O)CC | C20H24F3N3O6
